US07153889B2
5-Acetyl-2,6-dimethyl-1,4-dihydro-pyridine-3-carbonitrile
A mixture of 3-aminocrotonitrile (2.0 g, 24 mmol), 2,4-pentanedione (4.9 g, 49 mmol), paraformaldehyde (1.5 g, 49 mmol) and piperidine (12 drops) in ethanol (100 mL) was heated to reflux for 4 hours, cooled and concentrated to dryness. The residue was treated with diethyl ether (150 mL). The solid was collected and washed with ether. The solid was triturated with dichloromethane (2×100 mL). The combined dichloromethane triturations were concentrated to provide 2.5 g of the title compound. 1H NMR (DMSO-d6) δ ppm 1.92 (t, J=1.02 Hz, 3H), 2.09 (s, 3H), 2.10 (s, 3H), 3.20 (s, 2H), 8.65 (s, 1H). MS (DCI-NH3) [M+H]+ at 177.

reactant | 3-aminocrotonitrile | 24 mmol, 2.0 g | C/C(=C\C#N)/N | C4H6N2
reactant | 2,4-pentanedione | 49 mmol, 4.9 g | CC(CC(C)=O)=O | C5H8O2
reactant | paraformaldehyde | 49 mmol, 1.5 g | C=O | CH2O
catalyst | piperidine | 12 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-Acetyl-2,6-dimethyl-1,4-dihydro-pyridine-3-carbonitrile | 2.5 g | C(C)(=O)C=1CC(=C(NC1C)C)C#N | C10H12N2O
